* source LAB2_PROJECT
D_D1         N00099 N00285 Dbreak 
V_V1         N00092 0 5Vdc
R_R1         N00092 N00099  1.5k TC=0,0 
R_RD         0 N00285  50 TC=0,0 
